US08026236B2
H: 6-[4-(3-Hydroxypropoxy)-3-(trifluoromethyl)-phenyl]-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile
A mixture of 6-chloro-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (6 g), 4-(3-hydroxypropoxy)-3-(trifluoromethyl)phenylboronic acid (12.3 g), tris(dibenzylideneacetone)dipalladium (1.42 g), tricyclohexylphosphine (1.05 g) and tribasic potassium phosphate (13.2 g) in dioxane (60 ml) and water (24 ml) was heated at 100° C. under N2 for 4 hours. The mixture was then diluted with ethyl acetate (400 ml), organic layer seperated and solvent removed under reduced pressure, to the residue was then added methanol (50 ml), product crystalised out and collected by filtration (7.7 g). 1H NMR (DMSO) δ: 8.67 (s, 1H), 8.60 (s, 1H), 8.43 (d, 1H), 8.37 (s, 1H), 7.41 (d, 1H), 4.55 (t, 1H), 4.25 (t, 2H), 3.99 (s, 3H), 3.58 (q, 2H), 1.92 (tt, 2H). MS m/z 377 (M+H).

reactant | 6-chloro-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 6 g | ClC1=CC2=C(C(=N1)C#N)N=CN2C | C8H5ClN4
reactant | 4-(3-hydroxypropoxy)-3-(trifluoromethyl)phenylboronic acid | 12.3 g | OCCCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C10H12BF3O4
reactant | tricyclohexylphosphine | 1.05 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 13.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 24 ml | O | H2O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 1.42 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-[4-(3-Hydroxypropoxy)-3-(trifluoromethyl)-phenyl]-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | OCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C18H15F3N4O2
